US04548932
A solution of ethyl 3-(3,4,5,6-tetrahydro-2H-pyran-4-yl)acrylate (17 g) in ethanol (200 ml) is catalytically hydrogenated over 10% palladium-carbon (4 g, 50% wet) at room temperature under atmospheric pressure. After the absorption of hydrogen has ceased, the catalyst is removed by filtration and the filtrate is concentrated in vacuo. The oily residue is purified by vacuum distillation to give ethyl 3-(3,4,5,6-tetrahydro-2H-pyran-4-yl)propionate (15 g) as an oil.

reactant | ethyl 3-(3,4,5,6-tetrahydro-2H-pyran-4-yl)acrylate | 17 g | O1CCC(CC1)C=CC(=O)OCC | C10H16O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 4 g | [C].[Pd]
product | ethyl 3-(3,4,5,6-tetrahydro-2H-pyran-4-yl)propionate | 15 g | O1CCC(CC1)CCC(=O)OCC | C10H18O3
